US04853392
EXAMPLE 13 4-(2-Chlorophenyl)-3-ethoxycarbonyl-6,6-dimethyl-2-[2-(2-methylbenzimidazol-1-yl)ethoxymethyl]-1,4,5,6,7,8-hexahydro-5-oxoquinoline
The title compound (63 mg) was prepared from 2-chlorobenzaldehyde (202 mg), 3-amino-6,6-dimethyl-2-cyclohexene-1-one (200 mg) and ethyl 4-[2-(2-methylbenzimidazol-1-yl)ethoxy]-3-oxobutanoate (304 mg) by the method of Example 1. M.p. 118°-120° C.

reactant | 2-chlorobenzaldehyde | 202 mg | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-amino-6,6-dimethyl-2-cyclohexene-1-one | 200 mg | NC1=CC(C(CC1)(C)C)=O | C8H13NO
reactant | ethyl 4-[2-(2-methylbenzimidazol-1-yl)ethoxy]-3-oxobutanoate | 304 mg | CC1=NC2=C(N1CCOCC(CC(=O)OCC)=O)C=CC=C2 | C16H20N2O4
product | 4-(2-Chlorophenyl)-3-ethoxycarbonyl-6,6-dimethyl-2-[2-(2-methylbenzimidazol-1-yl)ethoxymethyl]-1,4,5,6,7,8-hexahydro-5-oxoquinoline | 63 mg | ClC1=C(C=CC=C1)C1C(=C(NC=2CCC(C(C12)=O)(C)C)COCCN1C(=NC2=C1C=CC=C2)C)C(=O)OCC | C31H34ClN3O4
